US08067445B2
Step 6: 1-Ethyl-3-methyl-1-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-urea
Prepared according to the procedure described in Example 33, Step 2, using the following starting materials: 1-(2-bromo-5-trifluoromethyl-benzyl)-1-ethyl-3-methyl-urea and bis(pinacolato)diboron.

reactant | 1-(2-bromo-5-trifluoromethyl-benzyl)-1-ethyl-3-methyl-urea | BrC1=C(CN(C(=O)NC)CC)C=C(C=C1)C(F)(F)F | C12H14BrF3N2O
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 1-Ethyl-3-methyl-1-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-urea | C(C)N(C(=O)NC)CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C18H26BF3N2O3
